US04363763
The alpha-hydroxylauric acid prepared in the foregoing manner was converted to the 2-methoxyethyl ester by refluxing a 5:1 molar ratio of 2-methoxyethanol with the acid in toluene solvent in the presence of a catalytic amount (0.3%) of p-toluenesulfonic acid. The reaction vessel was fitted with a moisture trap to remove H2O as it forms during the esterification. After water evolution was complete, the reaction mixture was water-washed and refined with 5% KOH/70:30 water:alcohol. The product was water-washed a second time, and the solvent was evaporated to yield 2-methoxyethyl alpha-hydroxylaurate.

reactant | alpha-hydroxylauric acid | OC(C(=O)O)CCCCCCCCCC | C12H24O3
reactant | 2-methoxyethanol | COCCO | C3H8O2
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-methoxyethyl alpha-hydroxylaurate | OC(C(=O)OCCOC)CCCCCCCCCC | C15H30O4
